US05179125
Preparation of 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-5-methylbenzoic acid
3-Amino-5-methylbenzoic acid (1.9 g) is dissolved in a 60% aqueous solution of tetrahydrofuran (30 ml) containing triethylamine (2.3 g), and to the mixture is added dropwise a solution of 2-acetylthiomethyl-3-phenylpropionyl chloride (3.2 g) in tetrahydrofuran (20 ml) with stirring under ice cooling, and the mixture is stirred at room temperature for 2 hours. Tetrahydrofuran is distilled off under reduced pressure, and the residue is extracted with ethyl acetate (100 ml). The extract is washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and then ethyl acetate is distilled off under reduced pressure. The residue is dissolved in acetonitrile and purified by a medium pressure column chromatography with CHP-20P (eluant, water-acetonitrile). The fractions containing the desited compound are collected and concentrated into dryness under reduced pressure to give the title compound (2.4 g).

reactant | 3-Amino-5-methylbenzoic acid | 1.9 g | NC=1C=C(C(=O)O)C=C(C1)C | C8H9NO2
reactant | triethylamine | 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-acetylthiomethyl-3-phenylpropionyl chloride | 3.2 g | C(C)(=O)SCC(C(=O)Cl)CC1=CC=CC=C1 | C12H13ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-5-methylbenzoic acid | 2.4 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)O)C=C(C1)C)CC1=CC=CC=C1 | C20H21NO4S
